US08445530B2
2-[4-Ethoxy-3-(2-m-tolyl-ethylamino)-benzoylamino]-indane-2-carboxylic acid
The synthesis was carried out on 0.15 g of PL Wang resin (1.7 mmol/g). The attachment of 2-amino-indane-2-carboxylic acid and the acylation step using 4-fluoro-3-nitro-benzoic acid were performed as described in example 173. After the acylation step, the resin was shaken with ethanol (5 equivalents) in the presence of sodium bis(trimethylsilyl)amide (5 equivalents) in 3 ml of dimethylacetamide. The resin was washed with DMF, 10% acetic acid/DMF, DMF and finally with DCM. The reduction of the nitro group with tin(II) chloride, sulfonylation with 2,4-dinitro-benzenesulfonyl chloride, alkylation with 2-(3-methylphenyl)-ethanol and removal of the sulfonyl group were performed as described in example 171 and the compound purified by preparative RP HPLC (water/ACN gradient). Yield: 2.4 mg.

reactant | 2-amino-indane-2-carboxylic acid | NC1(CC2=CC=CC=C2C1)C(=O)O | C10H11NO2
reactant | 4-fluoro-3-nitro-benzoic acid | FC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4FNO4
reactant | ethanol | 5 equivalents | C(C)O | C2H6O
reactant | sodium bis(trimethylsilyl)amide | 5 equivalents | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | dimethylacetamide | 3 ml | CC(=O)N(C)C | C4H9NO
product | 2-[4-Ethoxy-3-(2-m-tolyl-ethylamino)-benzoylamino]-indane-2-carboxylic acid | C(C)OC1=C(C=C(C(=O)NC2(CC3=CC=CC=C3C2)C(=O)O)C=C1)NCCC=1C=C(C=CC1)C | C28H30N2O4
